US04342780
Thionyl chloride (288 g) is added over 1.5 hour to a stirred solution of 2,3-dimethoxybenzyl alcohol (400 g) and 2,6-lutidine in methylene chloride (2 l). The reaction mixture is then stirred for 30 minutes after which it is washed with 2 N hydrochloric acid (7×1 l) and then with water. The organic layer is separated, dried (MgSO4) and evaporated to give a residue, which upon distillation yields 3,4-dimethoxybenzyl chloride (375 g), b.p. 145°-150° C. at 20-25 nm (waterpump vacuum). The material solidifies on standing.

reactant | Thionyl chloride | 288 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2,3-dimethoxybenzyl alcohol | 400 g | COC1=C(CO)C=CC=C1OC | C9H12O3
reactant | 2,6-lutidine | N1=C(C=CC=C1C)C | C7H9N
reactant | methylene chloride | 2 l | C(Cl)Cl | CH2Cl2
product | 3,4-dimethoxybenzyl chloride | 375 g | COC=1C=C(CCl)C=CC1OC | C9H11ClO2
